US06960614B2
To a stirring solution of 5-chloro-2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-benzoic acid pentafluorophenyl ester (5.80 g, 9.51 mmol) is freshly distilled tetrahydrofuran (40 mL) was added O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (1.54 g, 10.5 mmol) and diisopropylethylamine (1.8 mL, 10.5 mmol). After 20 hours, the mixture was partitioned between ethyl acetate and water. The organic layer was washed twice with water and twice with saturated brine solution. The organic layer was collected, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by crystallization in ethyl acetate/hexanes affording 5-chloro-2-(2-chloro-4-iodo-phenylamino)-N-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3,4-difluoro-benzamide as a white solid (3.7 g, 67.9%): 1H NMR (400 MHz; CDCl3) δ 9.82 (bs, 1H), 8.10 (bs, 1H), 7.68 (s, 1H), 7.47 (bs, 1H), 7.40-7.43 (m, 1H), 6.44-6.47 (m, 1H), 4.40 (bs, 1H), 3.97-4.20 (m, 3H), 3.77 (t, 1H, J=8.0), 1.44 (s, 3H), 1.37 (s, 3H); MS (APCI+)=573.0/575.0.

reactant | 5-chloro-2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-benzoic acid pentafluorophenyl ester | 9.51 mmol, 5.80 g | FC1=C(C(=C(C(=C1OC(C1=C(C(=C(C(=C1)Cl)F)F)NC1=C(C=C(C=C1)I)Cl)=O)F)F)F)F | C19H5Cl2F7INO2
reactant | O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 10.5 mmol, 1.54 g | CC1(OCC(O1)CON)C | C6H13NO3
reactant | diisopropylethylamine | 10.5 mmol, 1.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-chloro-2-(2-chloro-4-iodo-phenylamino)-N-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3,4-difluoro-benzamide | 3.7 g, 67.9% | ClC=1C(=C(C(=C(C(=O)NOCC2OC(OC2)(C)C)C1)NC1=C(C=C(C=C1)I)Cl)F)F | C19H17Cl2F2IN2O4
